US06147255
N-Ethyl-3-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthyl)phenylacrylamide.
20 ml of THF are introduced into a round-bottomed flask and 2.8 ml (35 mmol) of ethylamine solution (70%) are added. A solution of 1.2 g (3.2 mmol) of 3-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthyl)phenylacryloyl chloride in 40 ml of THF is added dropwise and the mixture is stirred at room temperature for one hour. The reaction medium is acidified with hydrochloric acid and extracted with ethyl ether, and the organic phase is separated out after settling has taken place, dried over magnesium sulphate and evaporated. The residue obtained is purified by chromatography on a column of silica eluted with dichloromethane. After evaporation of the solvents, 817 mg (68%) of N-ethyl-3-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthyl)phenylacrylamide are collected, with a melting point of 158-9° C.

reactant | ethylamine | 35 mmol, 2.8 ml | C(C)N | C2H7N
reactant | 3-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthyl)phenylacryloyl chloride | 3.2 mmol, 1.2 g | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C=1C=C(C=CC1)C=CC(=O)Cl | C24H27ClO
reactant | hydrochloric acid | Cl | ClH
reactant | THF | 40 ml | C1CCOC1 | C4H8O
reactant | THF | 20 ml | C1CCOC1 | C4H8O
product | N-Ethyl-3-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthyl)phenylacrylamide | C(C)NC(C(=C)C1=CC(=CC=C1)C1=CC=2C(CCC(C2C=C1C)(C)C)(C)C)=O | C26H33NO
